US07589127B2
2-Aminomethyl-5-tert-butylphenol hydrochloride
A finely powdered mixture of 15 g (0.10 mol) of 3-tert-butylphenol and 12.4 g (0.10 mol) of N-hydroxymethyl-2-chloroacetamide was added in portions to a vigorously stirred solution of 90 mL acetic acid and 10 mL (98%) sulfuric acid at 0° C. The reaction mixture was allowed to warm to room temperature over several hours, and stirring was maintained for a total of 20 hours. The reaction mixture was poured into ice-water, neutralized with saturated aqueous NaHCO3 solution and extracted into CH2Cl2. The organic extracts were combined, washed with brine, dried (Na2SO4), filtered and evaporated. The residue was purified on a silica gel flash chromatography column eluted with 10-30% EtOAc in hexane. Evaporation of the purified fractions and drying in vacuo afforded the title compound.

reactant | 3-tert-butylphenol | 0.10 mol, 15 g | C(C)(C)(C)C=1C=C(C=CC1)O | C10H14O
reactant | N-hydroxymethyl-2-chloroacetamide | 0.10 mol, 12.4 g | OCNC(CCl)=O | C3H6ClNO2
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 90 mL | C(C)(=O)O | C2H4O2
product | 2-Aminomethyl-5-tert-butylphenol hydrochloride | Cl.NCC1=C(C=C(C=C1)C(C)(C)C)O | InChI=1S/C11H17NO.ClH/c1-11(2,3)9-5-4-8(7-12)10(13)6-9;/h4-6,13H,7,12H2,1-3H3;1H
